US04130504
82.3 grams (400 mmols) of 2,4-ditertiarybutylphenol
57.8 grams of the light orange solids were stirred with 100 ml of ethanol and filtered. The solids were dried at 60° C. resulting in 44 grams of a light cream colored product identified as the 2,2',4,4'-tetratertiarybutyl-6,6'biphenol. The filtrate was evaporated to 20 ml and again filtered after which the solids were washed with methanol resulting in an additional 1.5 grams of the biphenol.

reactant | 2,2',4,4'-tetratertiarybutyl-6,6'biphenol | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)C1=CC(=CC(=C1O)C(C)(C)C)C(C)(C)C)O | C28H42O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2,4-ditertiarybutylphenol | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)O | C14H22O
